2179-11-19 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Arrived on AC then PS 18/8 weaned to PS 14/8.  Tolerated well so weaned
   to PS 12/5.  Passed RSBI on 5/0
   Became tachypnic after turning and had to be put back on [**8-3**].
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-11-18**] 09:07 AM
   Metoprolol - [**2179-11-18**] 09:00 PM
   Furosemide (Lasix) - [**2179-11-18**] 11:58 PM
   Haloperidol (Haldol) - [**2179-11-19**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-11-19**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 85 (70 - 89) bpm
   BP: 134/70(96) {98/47(68) - 177/78(106)} mmHg
   RR: 23 (10 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.4 kg (admission): 114.5 kg
             Total In:
                                                                  1,977 mL
                                                                    321 mL
   PO:
             TF:
                                                                    600 mL
                                                                    184 mL
   IVF:
                                                                    637 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                  2,015 mL
   Urine:
                                                                  1,780 mL
                                                                  2,015 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    197 mL
                                                                 -1,694 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 510 (320 - 650) mL
   PS : 18 cmH2O
   RR (Set): 18
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 17 cmH2O
   Plateau: 24 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/67/91/40/9
   Ve: 7 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   366 K/uL
   9.6 g/dL
   107 mg/dL
   0.7 mg/dL
   40 mEq/L
   3.7 mEq/L
   12 mg/dL
   102 mEq/L
   149 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2179-11-17**]  04:23 PM
                             [**2179-11-17**]  05:17 PM
                             [**2179-11-17**]  05:47 PM
                             [**2179-11-17**]  08:45 PM
                             [**2179-11-18**]  02:38 AM
                             [**2179-11-18**]  04:36 PM
                             [**2179-11-18**]  10:19 PM
                             [**2179-11-19**]  02:30 AM
                             [**2179-11-19**]  02:44 AM
                             [**2179-11-19**]  04:53 AM
   WBC
   9.8
   8.2
   Hct
   29.7
   31.1
   Plt
   415
   366
   Cr
   0.6
   0.9
   0.7
   TCO2
   38
   41
   38
   40
   38
   42
   40
   Glucose
   115
   108
   103
   98
   109
   107
   Other labs: PT / PTT / INR:12.4/23.8/1.0, Albumin:3.9 g/dL, Ca++:8.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   57 yo F w/ COPD, morbid obesity, TBM and failure to wean vent.
   #  Failure to wean/COPD/TBM: Appears chronic retainer. Per report pt.
   did not tolerate weaning [**1-18**] anxiety. Will attempt to wean PEEP by
   sitting pt. more upright as she may need PEEP to push up her pannus
   when supine.
   - Sit upright/reverse trendelenberg
   - diurese, got lasix 10
   - Nebs
   - Consider stent when PEEP lower
   - Fluticasone
   - Prednisone home dose consider wean post extubation
   - Check dead space to determine how much of her failure is [**1-18**] COPD vs.
   TBM
   .
   #Anxiety: Well controlled currently
   - Continue seroquel for now
   .
   #DMII: Will be worse w/ seroquel, FSBS well controlled recently
   - Continue previous insulin regimen
   .
   #Trach pain
   - wean dilaudid
   - Tylenol
   .
   #Thrush: likely [**1-18**] steroids
   - Nystatin
   .
   #HTN: Currently fairly well controlled
   - continue dilt/enalapril, would attempt to simplify regimen when
   extubated before d/c.
   .
   #Hypernatremia:
   - Increase rate of free water flush in TFs
   .
   #Anemia: Phlebotomizing downward
   - Limit blood draws
   .
   #Nutrition: Getting TFs through NGT
   - If unable to wean soon should get PEG
   .
   # FEN: IVFs / replete lytes prn / TFs nutren pulm
   # PPX: famotidine, heparin SQ, bowel regimen
   # ACCESS: PICC
   # CODE:  Full
   # CONTACT:  [**Name (NI) 186**] [**Name (NI) 135**] [**Telephone/Fax (1) 11903**] (cell) [**Telephone/Fax (1) 11904**] (home);
   Son [**Name (NI) 20**] [**Telephone/Fax (1) 11905**] (cell)
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2179-11-19**] 05:56 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2179-11-16**] 12:17 AM
   Arterial Line - [**2179-11-17**] 05:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-11-19 10:18:00 Physician Attending Progress Note
HPI:
    57yoF with COPD, trached after respiratory failure.
   24 Hour Events:
   Transferred to MICU yesterday.  Tolerated vent settings to PS 14/8 and
   passed RSBI; now back on PSV 18/8 because of HTN and tachypnea.
   Improved with giving high-dose bronchodilators and change back to
   higher support.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Other ICU medications:
   Metoprolol - [**2179-11-18**] 09:00 PM
   Furosemide (Lasix) - [**2179-11-18**] 11:58 PM
   Haloperidol (Haldol) - [**2179-11-19**] 06:50 AM; 2.5mg prn
   Other medications:
   Peridex
   Diltiazem
   Famotidine
   Seroquel
   Fluticasone 110mcg [**Hospital1 **]
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-11-19**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 69 (69 - 97) bpm
   BP: 139/63(86) {98/54(68) - 202/86(122)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.4 kg (admission): 114.5 kg
             Total In:
                                                                  2,020 mL
                                                                    389 mL
   PO:
             TF:
                                                                    600 mL
                                                                    247 mL
   IVF:
                                                                    680 mL
                                                                     42 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                  2,090 mL
   Urine:
                                                                  1,780 mL
                                                                  2,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                 -1,701 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 510 (320 - 650) mL
   PS : 18 cmH2O
   RR (Set): 18
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 24 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.37/67/91/
   Ve: 8.6 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Gen: Awake, alert, follows commands
   Chest: Diminished breath sounds on right
   CV: RRR
   Abd: s/nt/nd
   Ext: Minimal edema
   Labs / Radiology
   9.6 g/dL
   366 K/uL
   107 mg/dL
   0.7 mg/dL
   40 mEq/L
   3.7 mEq/L
   12 mg/dL
   102 mEq/L
   149 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2179-11-17**]  04:23 PM
                             [**2179-11-17**]  05:17 PM
                             [**2179-11-17**]  05:47 PM
                             [**2179-11-17**]  08:45 PM
                             [**2179-11-18**]  02:38 AM
                             [**2179-11-18**]  04:36 PM
                             [**2179-11-18**]  10:19 PM
                             [**2179-11-19**]  02:30 AM
                             [**2179-11-19**]  02:44 AM
                             [**2179-11-19**]  04:53 AM
   WBC
   9.8
   8.2
   Hct
   29.7
   31.1
   Plt
   415
   366
   Cr
   0.6
   0.9
   0.7
   TCO2
   38
   41
   38
   40
   38
   42
   40
   Glucose
   115
   108
   103
   98
   109
   107
   Other labs: PT / PTT / INR:12.4/23.8/1.0, Albumin:3.9 g/dL, Ca++:8.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   57yoF with COPD, respiratory failure at OSH and early trach.
   1.       COPD:
   - Standing bronchodilators
   - Fluiticasone 880mcg daily
   - Atrovent as cannot get spiriva
   - Aim for goal TBB negative 500ml
   - To get repeat bronchoscopy per [**Last Name (LF) **], [**First Name3 (LF) **] discuss timing given
   improvement of PEEP.
   2.       Anxiety:
   - can trial dose of ativan and f/u mental status and anxiety
   - Continue seroquel and haldol prn
   3.       Hypernatremia
   - Increased free water boluses; f/u Na
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2179-11-19**] 05:56 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2179-11-16**] 12:17 AM
   Arterial Line - [**2179-11-17**] 05:37 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: famotidine
   VAP: HOB
   Communication:  Patient updated during rounds; will discuss with
   family.  ICU consent signed.
   Code status: Full code
   Disposition : Discuss with case management regarding chronic care
   facility
   Total time spent:  35minutes CCT

2179-11-20 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Weaned PEEP to 5
   Discussed placement with CM for likely early next week
   Discussed w/ IP possibility of stenting her, they will d/w their attg.
   Dead space ventilation was measured as 0.58.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2179-11-19**] 06:20 PM
   Famotidine (Pepcid) - [**2179-11-19**] 08:03 PM
   Heparin Sodium (Prophylaxis) - [**2179-11-20**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-11-20**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 85 (69 - 107) bpm
   BP: 151/64(93) {93/60(74) - 181/97(115)} mmHg
   RR: 24 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.4 kg (admission): 114.5 kg
   Height: 64 Inch
                  Total In:
                                                                  1,052 mL
                                                                    751 mL
   PO:
                  TF:
                                                                    600 mL
                                                                    191 mL
   IVF:
                                                                     42 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                    640 mL
   Urine:
                                                                  3,430 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,378 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (300 - 458) mL
   PS : 18 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 142
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: ///35/
   Ve: 6.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   366 K/uL
   9.6 g/dL
   114 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.8 mEq/L
   10 mg/dL
   102 mEq/L
   144 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2179-11-17**]  05:17 PM
                             [**2179-11-17**]  05:47 PM
                             [**2179-11-17**]  08:45 PM
                             [**2179-11-18**]  02:38 AM
                             [**2179-11-18**]  04:36 PM
                             [**2179-11-18**]  10:19 PM
                             [**2179-11-19**]  02:30 AM
                             [**2179-11-19**]  02:44 AM
                             [**2179-11-19**]  04:53 AM
                             [**2179-11-20**]  05:15 AM
   WBC
   9.8
   8.2
   Hct
   29.7
   31.1
   Plt
   415
   366
   Cr
   0.6
   0.9
   0.7
   0.6
   TCO2
   41
   38
   40
   38
   42
   40
   Glucose
   115
   108
   103
   98
   109
   107
   114
   Other labs: PT / PTT / INR:12.4/23.8/1.0, Albumin:3.9 g/dL, Ca++:8.8
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   57 yo F w/ COPD, morbid obesity, TBM and failure to wean vent.
   #  Failure to wean/COPD/TBM: Tolerated PEEP 5 until she was turned and
   then became dyspnic, tachypnic and had to have PEEP increased. Likely
   that when in turning position her pannus caused her some difficulty
   expanding her lungs which then led to tachypnea/airtrapping.  Pt. does
   have significant dead space ~.58, so mostly COPD.
   - Sit upright/reverse trendelenberg
   - Nebs
   - Consider stent when PEEP lower, will d/w IP
   - Fluticasone
   - Prednisone home dose consider wean post extubation
   .
   #Anxiety: Well controlled currently
   - Continue seroquel for now
   .
   #DMII: Will be worse w/ seroquel, FSBS well controlled recently
   - Continue insulin regimen
   .
   #Trach pain
   - wean dilaudid
   - Tylenol
   .
   #Thrush:Improved.
   - Nystatin PRN
   .
   #HTN: Currently fairly well controlled
   - continue dilt/enalapril, would attempt to simplify regimen when
   extubated before d/c.
   .
   #Hypernatremia:
   - Increase rate of free water flush in TFs
   .
   #Anemia: Phlebotomizing downward
   - Limit blood draws
   .
   #Nutrition: Getting TFs through NGT
   - If unable to wean soon should get PEG
   .
   # FEN: IVFs / replete lytes prn / TFs nutren pulm
   # PPX: famotidine, heparin SQ, bowel regimen
   # ACCESS: PICC
   # CODE:  Full
   # CONTACT:  [**Name (NI) 186**] [**Name (NI) 135**] [**Telephone/Fax (1) 11903**] (cell) [**Telephone/Fax (1) 11904**] (home);
   Son [**Name (NI) 20**] [**Telephone/Fax (1) 11905**] (cell)
   # DISPO: ICU

2179-11-20 11:01:00 Physician Attending Progress Note
HPI:
   57yoF with COPD; s/p trach for respiratory failure.
   24 Hour Events:
   PEEP weaned to 5 and tolerated without difficulty.
   Started on ativan with good result and improved anxiety.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Other ICU medications:
   Lorazepam (Ativan) - [**2179-11-19**] 06:20 PM
   Famotidine (Pepcid) - [**2179-11-20**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2179-11-20**] 08:00 AM
   Insulin sliding scale
   Prednisone  5mg
   Seroquel
   Albuterol
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2179-11-20**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 93 (80 - 107) bpm
   BP: 165/69(99) {93/61(74) - 181/162(167)} mmHg
   RR: 25 (13 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.4 kg (admission): 114.5 kg
   Height: 64 Inch
                  Total In:
                                                                  1,052 mL
                                                                  1,138 mL
   PO:
                  TF:
                                                                    600 mL
                                                                    268 mL
   IVF:
                                                                     42 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                  1,080 mL
   Urine:
                                                                  3,430 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,378 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 290 (290 - 458) mL
   PC : 18 cmH2O
   PS : 18 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 142
   PIP: 25 cmH2O
   SpO2: 95%
   ABG: 7.36/65/77/35/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Gen: Awake, alert, follows commands
   Chest: Clear anteriorly; no wheeze
   CV: RRR
   Abd: obese/s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   9.6 g/dL
   366 K/uL
   114 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.8 mEq/L
   10 mg/dL
   102 mEq/L
   144 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2179-11-17**]  05:47 PM
                             [**2179-11-17**]  08:45 PM
                             [**2179-11-18**]  02:38 AM
                             [**2179-11-18**]  04:36 PM
                             [**2179-11-18**]  10:19 PM
                             [**2179-11-19**]  02:30 AM
                             [**2179-11-19**]  02:44 AM
                             [**2179-11-19**]  04:53 AM
                             [**2179-11-20**]  05:15 AM
                             [**2179-11-20**]  10:32 AM
   WBC
   9.8
   8.2
   Hct
   29.7
   31.1
   Plt
   415
   366
   Cr
   0.9
   0.7
   0.6
   TCO2
   41
   38
   40
   38
   42
   40
   38
   Glucose
   108
   103
   98
   109
   107
   114
   Other labs: PT / PTT / INR:12.4/23.8/1.0, Lactic Acid:0.7 mmol/L,
   Albumin:3.9 g/dL, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   57F with COPD, trach for respiratory failiure in setting of COPD.
   1. Respiratory failure: COPD
   - continue inhaled bronchodilators, home dose steroids
   - increase PEEP from 5 to [**7-26**] and reassess compliance and comfort
   - Trial to decrease inspiratory pressure
   - Speech consult
   - Speaking trial today with cuff down and switch to volume cycle
   - TBB negative 500ml today; self-diuresis
   2. Neuro: anxiety
   - Continue prn ativan 0.5mg prn
   3. Probable TBM
 IP to reeval next week
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2179-11-19**] 05:56 AM 25 mL/hour
   Glycemic Control:  Glucose controlled; insuling sliding scale
   Lines:
   PICC Line - [**2179-11-16**] 12:17 AM
   Arterial Line - [**2179-11-17**] 05:37 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: Famotidine
   VAP: Not intubated
   Communication:  Patient updated during [**Last Name (LF) 2585**], [**First Name3 (LF) **] update family
   today.
   Code status: Full code
   Disposition : Remains critically ill in ICU.  Case managment regarding
   possible transfer for venilator weaning.
   Total time spent:  35minutes CCT

2179-11-21 08:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Increased PEEP to 10 for increase comfort and better TVs, decreased PS
   Small trial of deflating cuff to speak, went ok but very nervous about
   it
   Plan for possible IP rebronch monday
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-11-21**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-11-21**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 73 (72 - 98) bpm
   BP: 136/76(84) {102/65(83) - 165/92(111)} mmHg
   RR: 25 (13 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.4 kg (admission): 114.5 kg
   Height: 64 Inch
                  Total In:
                                                                  2,060 mL
                                                                  1,011 mL
   PO:
                  TF:
                                                                    850 mL
                                                                    481 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,898 mL
                                                                    280 mL
   Urine:
                                                                  1,898 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    162 mL
                                                                    731 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 667 (310 - 667) mL
   PS : 16 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   SpO2: 94%
   ABG: 7.36/65/77/39/7
   Ve: 6.9 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Gen: A/O
   HEENT: No thrush, no icterus
   Heart: RRR, distant heart sounds
   Lungs: End expiratory wheezes diffusely
   Abd: Obese, soft, NT, ND, BS+
   Ext: Warm, WP, 2+ DP pulses bilaterally, no edema
   Labs / Radiology
   320 K/uL
   10.0 g/dL
   125 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.2 mEq/L
   11 mg/dL
   100 mEq/L
   146 mEq/L
   32.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2179-11-17**]  08:45 PM
                             [**2179-11-18**]  02:38 AM
                             [**2179-11-18**]  04:36 PM
                             [**2179-11-18**]  10:19 PM
                             [**2179-11-19**]  02:30 AM
                             [**2179-11-19**]  02:44 AM
                             [**2179-11-19**]  04:53 AM
                             [**2179-11-20**]  05:15 AM
                             [**2179-11-20**]  10:32 AM
                             [**2179-11-21**]  03:27 AM
   WBC
   9.8
   8.2
   7.5
   Hct
   29.7
   31.1
   32.4
   Plt
   [**Telephone/Fax (3) 11945**]
   Cr
   0.9
   0.7
   0.6
   0.6
   TCO2
   38
   40
   38
   42
   40
   38
   Glucose
   108
   103
   98
   109
   107
   114
   125
   Other labs: PT / PTT / INR:12.1/21.1/1.0, Lactic Acid:0.7 mmol/L,
   Albumin:3.9 g/dL, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   No new growth
   Assessment and Plan
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 HYPERTENSION, BENIGN
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   57 yo F w/ COPD, morbid obesity, TBM and failure to wean vent.
   #  Failure to wean/COPD/TBM: Doing well on 16/10.  NIF -40 suggests
   resp muscle weakness.  Likely from 2 week ventilation.
   - Plan for bronch tomorrow
   - Nebs
   - Fluticasone
   - Prednisone home dose consider wean post extubation
   .
   #Anxiety: Well controlled currently.  Hold on seroquel
   - Continue lorazepam
   .
   #DMII: Will be worse w/ seroquel and prednisone, FSBS well controlled
   recently
   - Continue insulin regimen
   .
   #Trach pain
   - wean dilaudid
   - Tylenol
   .
   #Thrush:Improved.
   - Nystatin PRN
   .
   #HTN: Currently fairly well controlled
   - continue dilt/enalapril, would attempt to simplify regimen when
   extubated before d/c.
   .
   #Hypernatremia:
   - Increase rate of free water flush in TFs
   .
   #Anemia: Improving
   - Limit blood draws
   .
   #Nutrition: Getting TFs through NGT
   - If unable to wean soon should get PEG unless can eat
   - consult speech and swallow for cuff pressures and ability to eat.
   .
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2179-11-20**] 06:23 PM 60 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2179-11-16**] 12:17 AM
   Arterial Line - [**2179-11-17**] 05:37 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: Husband [**Name (NI) 135**] [**Telephone/Fax (1) 11903**] (cell)
   [**Telephone/Fax (1) 11904**] (home); Son [**Name (NI) 20**] [**Telephone/Fax (1) 11905**] (cell)
   Code status: Full code
   Disposition: ICU for now, screen for vent rehab

2179-11-21 11:39:00 Physician Attending Progress Note
HPI:
   59F with COPD, intubated with exacerbation at OSH, transferred here for
   evaluation of TBM. In MICU to optimize pre-bronchoscopy.
   24 Hour Events:
   Stable overnight.
   IP for possible bronch tomorrow.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-11-21**] 08:16 AM
   Other medications:
   Peridex
   Insulin sliding scale
   Diltiazem 30mg tid
   Enalapril
   Famotidine
   Prednisone 5mg daily
   Albuterol q4h
   Fluticasone inh
   Ativan 0.5mg prn
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2179-11-21**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 79 (72 - 98) bpm
   BP: 161/75(103) {102/67(84) - 183/92(115)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.4 kg (admission): 114.5 kg
   Height: 64 Inch
                  Total In:
                                                                  2,060 mL
                                                                  1,495 mL
   PO:
                  TF:
                                                                    850 mL
                                                                    685 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,898 mL
                                                                    710 mL
   Urine:
                                                                  1,898 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    162 mL
                                                                    785 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (440 - 667) mL
   PS : 16 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 31 cmH2O
   SpO2: 95%
   ABG: ///39/
   NIF: -24 cmH2O
   Ve: 5.2 L/min
   Physical Examination
   Gen: Awake, alert, follows commands
   Chest: clear anterior fields, limited exam
   CV: RRR
   Abd: obese/nt/nd
   Ext: no edema
   Labs / Radiology
   10.0 g/dL
   320 K/uL
   125 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.2 mEq/L
   11 mg/dL
   100 mEq/L
   146 mEq/L
   32.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2179-11-17**]  08:45 PM
                             [**2179-11-18**]  02:38 AM
                             [**2179-11-18**]  04:36 PM
                             [**2179-11-18**]  10:19 PM
                             [**2179-11-19**]  02:30 AM
                             [**2179-11-19**]  02:44 AM
                             [**2179-11-19**]  04:53 AM
                             [**2179-11-20**]  05:15 AM
                             [**2179-11-20**]  10:32 AM
                             [**2179-11-21**]  03:27 AM
   WBC
   9.8
   8.2
   7.5
   Hct
   29.7
   31.1
   32.4
   Plt
   [**Telephone/Fax (3) 11945**]
   Cr
   0.9
   0.7
   0.6
   0.6
   TCO2
   38
   40
   38
   42
   40
   38
   Glucose
   108
   103
   98
   109
   107
   114
   125
   Other labs: PT / PTT / INR:12.1/21.1/1.0, Lactic Acid:0.7 mmol/L,
   Albumin:3.9 g/dL, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   57F with COPD and respiratory failure, possible TBM.
   1. COPD:
   - attempt to wean PSV today; continue PEEP 10
   - inhaled corticosteroids, bronchodilators
   - fluid balance negative today
   2.  Possible TBM:
   - IP to bronch tomorrow for consideration of possible stent.  Patient
   can tolerate lower PEEP.
   3.  Anxiety:
   - Ativan prn
   - d/c haldol
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2179-11-20**] 06:23 PM 60 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   PICC Line - [**2179-11-16**] 12:17 AM
   Arterial Line - [**2179-11-17**] 05:37 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  H2
   VAP:  HOB/mouthcare
   Communication:  Patient and family updated during rounds
   Code status: Full code
   Disposition : Ventilator dependence, remains in ICU.  CM following,
   possible vent facility next week.
   Total time spent:  30minutes CCT

2179-11-22 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp failure
   24 Hour Events:
   Decreased PS
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsSulfa (Sulfonamide
   Antibiotics)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-11-21**] 04:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-11-22**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 81 (72 - 88) bpm
   BP: 148/78(103) {148/71(98) - 194/140(156)} mmHg
   RR: 25 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.4 kg (admission): 114.5 kg
   Height: 64 Inch
                  Total In:
                                                                  2,500 mL
                                                                      9 mL
   PO:
                  TF:
                                                                  1,440 mL
                                                                      9 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    410 mL
   Urine:
                                                                  1,355 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,145 mL
                                                                   -401 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 268 (268 - 488) mL
   PS : 14 cmH2O
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 53
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: ///40/
   NIF: -24 cmH2O
   Ve: 7 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   327 K/uL
   10.7 g/dL
   122 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.2 mEq/L
   14 mg/dL
   98 mEq/L
   145 mEq/L
   33.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2179-11-18**]  02:38 AM
                             [**2179-11-18**]  04:36 PM
                             [**2179-11-18**]  10:19 PM
                             [**2179-11-19**]  02:30 AM
                             [**2179-11-19**]  02:44 AM
                             [**2179-11-19**]  04:53 AM
                             [**2179-11-20**]  05:15 AM
                             [**2179-11-20**]  10:32 AM
                             [**2179-11-21**]  03:27 AM
                             [**2179-11-22**]  04:00 AM
   WBC
   9.8
   8.2
   7.5
   7.8
   Hct
   29.7
   31.1
   32.4
   33.9
   Plt
   [**Telephone/Fax (3) 11961**]27
   Cr
   0.9
   0.7
   0.6
   0.6
   0.6
   TCO2
   40
   38
   42
   40
   38
   Glucose
   108
   103
   98
   109
   107
   114
   125
   122
   Other labs: PT / PTT / INR:12.4/21.7/1.0, Lactic Acid:0.7 mmol/L,
   Albumin:3.9 g/dL, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 HYPERTENSION, BENIGN
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   57 yo F w/ COPD, morbid obesity, TBM and failure to wean vent.
   #  Failure to wean/COPD/TBM: Doing well on 16/10.  NIF -40 suggests
   resp muscle weakness.  Likely from 2 week ventilation.
   - Plan for bronch today, IP to see if she needs a stent
   - Nebs
   - Fluticasone
   - Prednisone home dose consider wean post extubation
   -NIF low at 23 yesterday, no other signs of  muscular weakness so
   likely just due to extended intubation but will monitor for other signs
   of weakness. If that occurs, consider EMG/NCS.
   .
   #Anxiety: Well controlled currently.  Hold on seroquel
   - Continue lorazepam
   .
   #DMII: Will be worse w/ seroquel and prednisone, FSBS well controlled
   recently
   - Continue insulin regimen
   .
   #Trach pain
   - wean dilaudid
   - Tylenol
   .
   #Thrush:Improved.
   - Nystatin PRN
   .
   #HTN: Currently slightly elevated
   - Titrate up enalapril today
   - continue dilt/enalapril, would attempt to simplify regimen when
   extubated before d/c.
   .
   #Hypernatremia:  Improved
   - Con
t increased rate of free water flush in TFs
   .
   #Anemia: Improving
   - Limit blood draws
   .
   #Nutrition: Getting TFs through NGT, S+S to re-eval today post bronch
   - If unable to wean soon should get PEG unless can eat
   - consult speech and swallow for cuff pressures and ability to eat.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2179-11-16**] 12:17 AM
   Arterial Line - [**2179-11-17**] 05:37 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now but plan d/c to chronic vent wean facility
   soon

2179-11-22 11:02:00 Physician Attending Progress Note
Chief Complaint: COPD and respiratory failure
   HPI:
   57F with COPD, intubated at OSH with exacerbation; now with trach and
   persistent mechanical ventilation.  Possible TBM.
   24 Hour Events:
   Stable yesterday, tolerated minimal decrease in PSV.
   IP to perform bronchoscopy today.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-11-21**] 04:35 PM
   Other medications:
   Chlorhexadine
   Insulin sliding scale
   Prednisone 5mg daily
   Diltiazem 30mg qid
   Enalapril 40mg
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2179-11-22**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 82 (75 - 88) bpm
   BP: 174/76(107) {148/67(93) - 200/140(156)} mmHg
   RR: 26 (13 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.4 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,500 mL
                                                                    118 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                      9 mL
   IVF:
   29 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    670 mL
   Urine:
                                                                  1,355 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,145 mL
                                                                   -552 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (268 - 488) mL
   PS : 14 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 92%
   ABG: ///40/
   Ve: 6.8 L/min
   Physical Examination
   Gen: Awake, alert
   Chest: clear anterior fields
   CV: RRR
   Abd: s/nt/nd
   Ext: No edema
   Labs / Radiology
   10.7 g/dL
   327 K/uL
   122 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.2 mEq/L
   14 mg/dL
   98 mEq/L
   145 mEq/L
   33.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2179-11-18**]  02:38 AM
                             [**2179-11-18**]  04:36 PM
                             [**2179-11-18**]  10:19 PM
                             [**2179-11-19**]  02:30 AM
                             [**2179-11-19**]  02:44 AM
                             [**2179-11-19**]  04:53 AM
                             [**2179-11-20**]  05:15 AM
                             [**2179-11-20**]  10:32 AM
                             [**2179-11-21**]  03:27 AM
                             [**2179-11-22**]  04:00 AM
   WBC
   9.8
   8.2
   7.5
   7.8
   Hct
   29.7
   31.1
   32.4
   33.9
   Plt
   [**Telephone/Fax (3) 11961**]27
   Cr
   0.9
   0.7
   0.6
   0.6
   0.6
   TCO2
   40
   38
   42
   40
   38
   Glucose
   108
   103
   98
   109
   107
   114
   125
   122
   Other labs: PT / PTT / INR:12.4/21.7/1.0, Lactic Acid:0.7 mmol/L,
   Albumin:3.9 g/dL, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   57yoF with COPD, possible TBM.
   1. COPD:
   - continue current mangement with inhaled corticosteroids,
   bronchodilators, chronic prednisone.
   2. Possible TBM:
   - IP to bronch shortly
   3.  Anxiety: Improving, prn ativan
   4.  CV: HTN
   - F/u with uptitrated medications; consider adding additional [**Doctor Last Name **].
   ICU Care
   Nutrition: Speech/swallow consult
   Glycemic Control:  Insulin sliding scale
   Lines:
   PICC Line - [**2179-11-16**] 12:17 AM
   Arterial Line - [**2179-11-17**] 05:37 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:
   VAP: HOB/mouthcare
   Communication:  Patient updated during rounds
   Code status: Full code
   Disposition : Remain in ICU, chronically ventilated.  Discuss with case
   management regarding possible vent facility.
   Total time spent:  35minutes CCT

2179-11-23 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2179-11-22**] 12:46 PM
   Added back her valsartan and d/c'd enalapril
   Bronched and IP did not see anything to do
   Seen by s/s who tried her on PM valve w/ decent results, will need to
   call s/s again to evaluate for ability to swallow.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2179-11-22**] 12:05 PM
   Midazolam (Versed) - [**2179-11-22**] 12:05 PM
   Famotidine (Pepcid) - [**2179-11-22**] 09:07 PM
   Heparin Sodium (Prophylaxis) - [**2179-11-23**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-11-23**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 74 (74 - 104) bpm
   BP: 117/80(97) {111/67(93) - 200/113(127)} mmHg
   RR: 12 (12 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.4 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                    911 mL
                                                                  1,552 mL
   PO:
             TF:
                                                                    461 mL
                                                                    432 mL
   IVF:
                                                                     60 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    245 mL
   Urine:
                                                                  1,390 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -479 mL
                                                                  1,307 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 396 (320 - 405) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 5.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   327 K/uL
   10.7 g/dL
   122 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.2 mEq/L
   14 mg/dL
   98 mEq/L
   145 mEq/L
   33.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2179-11-18**]  02:38 AM
                             [**2179-11-18**]  04:36 PM
                             [**2179-11-18**]  10:19 PM
                             [**2179-11-19**]  02:30 AM
                             [**2179-11-19**]  02:44 AM
                             [**2179-11-19**]  04:53 AM
                             [**2179-11-20**]  05:15 AM
                             [**2179-11-20**]  10:32 AM
                             [**2179-11-21**]  03:27 AM
                             [**2179-11-22**]  04:00 AM
   WBC
   9.8
   8.2
   7.5
   7.8
   Hct
   29.7
   31.1
   32.4
   33.9
   Plt
   [**Telephone/Fax (3) 11961**]27
   Cr
   0.9
   0.7
   0.6
   0.6
   0.6
   TCO2
   40
   38
   42
   40
   38
   Glucose
   108
   103
   98
   109
   107
   114
   125
   122
   Other labs: PT / PTT / INR:12.4/21.7/1.0, Lactic Acid:0.7 mmol/L,
   Albumin:3.9 g/dL, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: Flex Bronchoscopy:
   Proximal: mild TM
   Mid: moderate TM
   Distal: severe TM
   Airways: Severe RMS, BIX LMS BP
   PlanL Discharge to rehab, f/u in a few months when recovered.
   Assessment and Plan
 ANXIETY
 HYPERNATREMIA (HIGH SODIUM)
 HYPERTENSION, BENIGN
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   57 yo F w/ COPD, morbid obesity, TBM and failure to wean vent.
   #  Failure to wean/COPD/TBM: Doing well on 14/10, which is slightly
   down from 16/10 yesterday.  Will likely be a slow wean.  Bronch did not
   show that airways would benefit from stent as TBM is more distal. NIF
   low at 23 on [**11-21**], no other signs of  muscular weakness so likely just
   due to extended intubation but will monitor for other signs of
   weakness. If that occurs, consider EMG/NCS.
   - Nebs
   - Fluticasone
   - Prednisone home dose consider wean post extubation
   .
   #Anxiety: Well controlled currently.  Hold on seroquel
   - Continue lorazepam
   .
   #DMII: Will be worse w/ seroquel and prednisone, FSBS well controlled
   recently
   - Continue insulin regimen
   .
   #Trach pain
   - wean dilaudid
   - Tylenol
   .
   #Thrush:Improved.
   - Nystatin PRN
   .
   #HTN: Currently slightly elevated
   - Titrate up enalapril today
   - continue dilt/enalapril, would attempt to simplify regimen when
   extubated before d/c.
   .
   #Hypernatremia:  Improved
   - Con
t increased rate of free water flush in TFs
   .
   #Anemia: Improving
   - Limit blood draws
   .
   #Nutrition: Getting TFs through NGT, S+S to re-eval today post bronch
   - If unable to wean soon should get PEG unless can eat
   - consult speech and swallow for ability to eat.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2179-11-23**] 05:29 AM 60 mL/hour
   Glycemic Control:  HISS
   Lines:
   PICC Line - [**2179-11-16**] 12:17 AM
   Arterial Line - [**2179-11-17**] 05:37 PM
   Prophylaxis:
   DVT: Pneumoboots, SQ Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital **] rehab

2179-11-23 11:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
    57F with COPD, s/p intubation for exacerbation; now with trach.
   24 Hour Events:
   IP bronch yesterday with bronchomalacia but nothing that could be
   intervened upon.
   Attempted TM trial yesterday with immediate increase in WOB and
   required being put back on the ventilator.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Other ICU medications:
   Midazolam (Versed) - [**2179-11-22**] 12:05 PM
   Fentanyl - [**2179-11-22**] 12:05 PM
   Famotidine (Pepcid) - [**2179-11-23**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2179-11-23**] 07:50 AM
   Other medications:
   Insulin sliding scale
   Fluticasone
   Albutero/atrovent
   Diltiazem
   [**Doctor First Name **]
   Lipitor
   ASA
   Vitamin D
   Lasix
   Valsartan
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2179-11-23**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 74 (74 - 104) bpm
   BP: 131/67(89) {111/67(89) - 169/113(126)} mmHg
   RR: 13 (11 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.4 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                    911 mL
                                                                  2,071 mL
   PO:
             TF:
                                                                    461 mL
                                                                    671 mL
   IVF:
                                                                     60 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    905 mL
   Urine:
                                                                  1,390 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -479 mL
                                                                  1,166 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 536 (320 - 536) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 7 L/min
   Physical Examination
   Gen: Awake, alert, follows commands
   Chest: clear; no wheeze or rhonchi
   CV: RRR
   Abd: s/nt/nd
   Ext: no edema
   Labs / Radiology
   10.7 g/dL
   327 K/uL
   122 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.2 mEq/L
   14 mg/dL
   98 mEq/L
   145 mEq/L
   33.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2179-11-18**]  02:38 AM
                             [**2179-11-18**]  04:36 PM
                             [**2179-11-18**]  10:19 PM
                             [**2179-11-19**]  02:30 AM
                             [**2179-11-19**]  02:44 AM
                             [**2179-11-19**]  04:53 AM
                             [**2179-11-20**]  05:15 AM
                             [**2179-11-20**]  10:32 AM
                             [**2179-11-21**]  03:27 AM
                             [**2179-11-22**]  04:00 AM
   WBC
   9.8
   8.2
   7.5
   7.8
   Hct
   29.7
   31.1
   32.4
   33.9
   Plt
   [**Telephone/Fax (3) 11961**]27
   Cr
   0.9
   0.7
   0.6
   0.6
   0.6
   TCO2
   40
   38
   42
   40
   38
   Glucose
   108
   103
   98
   109
   107
   114
   125
   122
   Other labs: PT / PTT / INR:12.4/21.7/1.0, Lactic Acid:0.7 mmol/L,
   Albumin:3.9 g/dL, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   57yoF with COPD and respiratory failure with trach.
   1.  COPD:
   - continue regimen of inhaled corticosteroid and albuterol/atrovent
   - Will decrease PSV to 12 and perhaps 10 today.
   2.  TBM: felt to not benefit from stent
   3.  Anxiety:  Continue ativan for anxiety
   ICU Care
   Nutrition: Awaiting speech/swallow eval today.
   Nutren Pulmonary (Full) - [**2179-11-23**] 05:29 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2179-11-16**] 12:17 AM
   Arterial Line - [**2179-11-17**] 05:37 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP:  HOB
   Communication:  Family and patient updated during rounds
   Code status: Full code
   Disposition : [**Hospital 1861**] transfer to ventilator facility/ NE [**Hospital1 **] of
   [**Location (un) 1034**]
   Total time spent:  30 minutes